US05753680
A solution of 4.2 g of methyl 2-methyl-4-(3-hydroxy-1-piperidyl)-5-methylsulfonylbenzoate [obtainable by reacting 3-hydroxypiperidine with 2-methyl-4-chloro-5-methylsulfonylbenzoic acid followed by esterification] and 3.89 g of guanidine in 20 ml of methanol is stirred at 50° over a period of three hours. The solution is cooled, water is added, the mixture is stirred for 1 hour and the precipitate which is formed is separated off. After recrystallization from acetone/methanol, N-diaminomethylene-2-methyl-4-(3-hydroxy-1-piperidyl)-5-methylsulfonylbenzamide is obtained, m.p. 194-196°.

reactant | methyl 2-methyl-4-(3-hydroxy-1-piperidyl)-5-methylsulfonylbenzoate | 4.2 g | CC1=C(C(=O)OC)C=C(C(=C1)N1CC(CCC1)O)S(=O)(=O)C | C15H21NO5S
reactant | guanidine | 3.89 g | NC(=N)N | CH5N3
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | N-diaminomethylene-2-methyl-4-(3-hydroxy-1-piperidyl)-5-methylsulfonylbenzamide | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)N1CC(CCC1)O)C)=O)N | C15H22N4O4S
